US05618941
Ethyl 3-[3-(2-carbamoylethenyl)-5-[(4-fluorophenyl)-hydroxymethyl]phenyl]2-propenoate
A mixture of ethyl 3-[3-bromo-5-[(4-fluorophenyl)hydroxymethyl]phenyl]-2-propenoate (9.50 g), acrylamide (2.67 g), palladium(II) acetate (0.306 g), tri-o-tolylphosphine (0.763 g) and triethylamine (3.80 g) in acetonitrile (10 ml) was heated to 100° C. for 4 hours under an atmosphere of nitrogen and then cooled. Water (150 ml) and dichloromethane (150 ml) was added and the mixture was warmed with stirring to disperse the solid residue. The mixture was cooled and filtered, and the solid was dissolved in hot isopropanol (500 ml). The solution was filtered hot using a filter aid, and the filtrate was concentrated until crystallisation commenced. An equal volume of ether was added and the mixture was allowed to cool. The solid was filtered off and dried to give the title compound (5.50 g), m.p. 197°-199° C. Found: C,68.55; H,5.17; N,4.01. C21H20FNO4 requires C,68.28; H,5.46; N,3.79%.

reactant | ethyl 3-[3-bromo-5-[(4-fluorophenyl)hydroxymethyl]phenyl]-2-propenoate | 9.50 g | BrC=1C=C(C=C(C1)C(O)C1=CC=C(C=C1)F)C=CC(=O)OCC | C18H16BrFO3
reactant | acrylamide | 2.67 g | C(C=C)(=O)N | C3H5NO
reactant | tri-o-tolylphosphine | 0.763 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 3.80 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
catalyst | palladium(II) acetate | 0.306 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | Water | 150 ml | O | H2O
product | Ethyl 3-[3-(2-carbamoylethenyl)-5-[(4-fluorophenyl)-hydroxymethyl]phenyl]2-propenoate | 5.50 g | C(N)(=O)C=CC=1C=C(C=C(C1)C(O)C1=CC=C(C=C1)F)C=CC(=O)OCC | C21H20FNO4
